US08030302B2
Methyl 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate
To a mixture of methyl 2-oxo-1,2-dihydropyridine-3-carboxylate (6.0 g, 39 mmol), 4-fluorophenylboronic acid (16.3 g, 116 mmol), cupric acetate (14 g, 78 mmol) and pyridine (12 g, 0.156 mol) in DCM (300 mL) is added 4 Å molecular sieves (5 g). The reaction mixture is stirred at RT overnight open to air. After the solids are filtered and washed with water, the filtrate is extracted with DCM (100 mL). The organic layer is dried over MgSO4 and concentrated. The residue is purified by silica gel column chromatography eluting with PE:DCM (2:1 to 0:1) to give the product (9.6 g, 100% yield). MS (m/z): 248.0 (M+H).

reactant | methyl 2-oxo-1,2-dihydropyridine-3-carboxylate | 39 mmol, 6.0 g | O=C1NC=CC=C1C(=O)OC | C7H7NO3
reactant | 4-fluorophenylboronic acid | 116 mmol, 16.3 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | pyridine | 0.156 mol, 12 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | Methyl 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 9.6 g, 100% yield | FC1=CC=C(C=C1)N1C(C(=CC=C1)C(=O)OC)=O | C13H10FNO3
